US06689922B1
5-{[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]ethylamino}-2-methylpentan-2-ol
350 mg (0.76 mmol) of 5-{[3-(3,4-bis-carboxymethylbenzyloxy)phenyl]ethylamino}-5-oxo-2-methylpentan-2-ol are dissolved in 10 ml of anhydrous THF and then 120 mg of lithium aluminium hydride (3.1 mmol) are added in two equal portions. After heating under reflux for 4 hours, the reaction medium is cooled and then sequentially treated with 120 l of water, 120 l of a 15% NaOH solution and then 360 l of water. After stirring for 1 hour, the reaction medium is filtered, concentrated and then purified by chromatography on a silica gel. A colourless oil is obtained (m=280 mg; Y=95%).

reactant | 5-{[3-(3,4-bis-carboxymethylbenzyloxy)phenyl]ethylamino}-5-oxo-2-methylpentan-2-ol | 0.76 mmol, 350 mg | C(=O)(O)CC=1C=C(COC=2C=C(C=CC2)CCNC(CCC(C)(O)C)=O)C=CC1CC(=O)O | C25H31NO7
reactant | lithium aluminium hydride | 3.1 mmol, 120 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 120 l | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | water | 360 l | O | H2O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-{[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]ethylamino}-2-methylpentan-2-ol | OCC=1C=C(COC=2C=C(C=CC2)CCNCCCC(C)(O)C)C=CC1CO | C23H33NO4
